US04994087
Step 1: Synthesis of 2-[(3-nitro-2,4-dimethylphenyl)-amino]-3-aminopyridine.
8.4 g of 2,4-diamino-m-xylene, 9.6 g of 2-chloro-3nitropyridine and 3.0 g of calcium carbonate were introduced into 300 ml water and the resulting mixture was heated under reflux for 8 hours to the boiling temperature. The reaction mixture was filtered while hot, the reaction product precipitating from the filtrate on cooling to 20° C. It was isolated and recrystallized from toluene. 6.2 g of the product melting at 173° to 175° C. were obtained.

reactant | 2,4-diamino-m-xylene | 8.4 g | NC1=C(C=CC(=C1C)N)C | C8H12N2
reactant | 2-chloro-3nitropyridine | 9.6 g | ClC1=NC=CC=C1[N+](=O)[O-] | C5H3ClN2O2
reactant | calcium carbonate | 3.0 g | C([O-])([O-])=O.[Ca+2]
reactant | water | 300 ml | O | H2O
product | 2-[(3-nitro-2,4-dimethylphenyl)-amino]-3-aminopyridine | 6.2 g | [N+](=O)([O-])C=1C(=C(C=CC1C)NC1=NC=CC=C1N)C | C13H14N4O2
